US06664256B1
Preparation of 3,4-bis(4-methoxyphenyl)-6-(3,5-difluorophenoxy)pyridazine
In a similar manner as in Example 2, 3,4-bis(4-methoxyphenyl)-6-chloropyridazine (250 mg, 0.766 mmol) and 3,5-difluorophenol were reacted as starting materials at 150° C. for 6 hours and post-treatment was then conducted, whereby the title compound was obtained as colorless needles (315.0 mg, 98.0%). Melting point: 135.1-137.5° C. (ethyl acetate-diethyl ether-hexane).

reactant | 3,4-bis(4-methoxyphenyl)-6-chloropyridazine | 0.766 mmol, 250 mg | COC1=CC=C(C=C1)C=1N=NC(=CC1C1=CC=C(C=C1)OC)Cl | C18H15ClN2O2
reactant | 3,5-difluorophenol | FC=1C=C(C=C(C1)F)O | C6H4F2O
product | 3,4-bis(4-methoxyphenyl)-6-(3,5-difluorophenoxy)pyridazine | COC1=CC=C(C=C1)C=1N=NC(=CC1C1=CC=C(C=C1)OC)OC1=CC(=CC(=C1)F)F | C24H18F2N2O3
